US07429565B2
6-Hydroxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester
To a solution of 6-allyloxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester (8.39 g, 20.3 mmol) in toluene (20 mL) was added tetrakistriphenylphosphine palladium (0.47 g, 0.40 mmol) and diethylamine (2.97 g, 40.86 mmol) at room temperature under an atmosphere of nitrogen. Stirring at room temperature was continued until all starting material was consumed. The crude reaction mixture was partitioned between diethyl ether and HCl (0.1 N). The organic layer was washed with brine and dried over sodium sulfate. Filtration and evaporation of solvents in vacuo yielded a crude material, which was purified by silica gel chromatography to provide 4.16 g (55%) of the desired product as an off-white solid. 1H NMR (300 MHz, CDCl3): δ=2.20 (s, 3H), 3.93 (s, 3H), 3.95 (s, 3H), 7.01 (s, 1H) ppm; 19F NMR (282 MHz, CDCl3): δ=−74 ppm.

reactant | 6-allyloxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester | 20.3 mmol, 8.39 g | COC(C=1C(C(=O)OC)=C(C(=CC1OCC=C)OS(=O)(=O)C(F)(F)F)C)=O | C15H15F3O8S
reactant | diethylamine | 40.86 mmol, 2.97 g | C(C)NCC | C4H11N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Hydroxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester | 4.16 g, 55% | COC(C=1C(C(=O)OC)=C(C(=CC1O)OS(=O)(=O)C(F)(F)F)C)=O | C12H11F3O8S
